* Z:\mnt\DATA\Cursussen\Publish\Books\CSstage\SLiCAP\cir\CSstageEKV.asc
R1 out 0 {R_L}
XU1 out N001 0 0 CMOS18N W={W} L={L} ID={ID}
I1 0 N001 I value=0 dc=0 dcvar=0 noise=0
R2 N001 0 {R_s}
.param W=10u L=180n ID=100u R_L=10k R_s=10G
.include C18.lib
.backanno
.end
